US09023858B2
C) 2-(ethylsulfanyl)-7-[(4-methoxybenzyl)amino]-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one
7-[(4-Methoxybenzyl)amino]-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one (108 mg), iodoethane (53 μl) and 1M aqueous sodium hydroxide solution (220 μl) were added to N,N-dimethylformamide (2 ml), and the mixture was stirred at 50° C. for 1 hr. To the reaction mixture were added 1M hydrochloric acid and water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the white title compound (63 mg).

reactant | 7-[(4-Methoxybenzyl)amino]-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one | 108 mg | COC1=CC=C(CNC=2C=CC3=C(NC(N(C3=O)C3=CC=C(C=C3)OCC(F)(F)F)=S)N2)C=C1 | C23H19F3N4O3S
reactant | iodoethane | 53 μl | ICC | C2H5I
reactant | sodium hydroxide | 1M, 220 μl | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(ethylsulfanyl)-7-[(4-methoxybenzyl)amino]-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 63 mg | C(C)SC=1N(C(C2=C(N1)N=C(C=C2)NCC2=CC=C(C=C2)OC)=O)C2=CC=C(C=C2)OCC(F)(F)F | C25H23F3N4O3S
